US07585875B2
A solution of 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-1-oxopropan-2-yl acetate (0.33 g, 1 equivalent) and 1M NaOH (1.5 mL, 1.25 equivalents) in 3 mL of THF was stirred at room temperature for 24 hours. The solution was worked up with ethyl acetate and saturated NaHCO3. The crude solid obtained was recrystallized from ethyl acetate and hexane to provide 2-hydroxy-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one (0.27 g, 96% yield) as a white solid. Compound 1068.

reactant | 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-1-oxopropan-2-yl acetate | 0.33 g, 1 equivalent | C(C)(=O)OC(C(=O)C=1C(=NN2C1C=CC=C2)C(C)C)C | C15H18N2O3
reactant | NaOH | 1M, 1.5 mL, 1.25 equivalents | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-hydroxy-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one | 0.27 g, 96% yield | OC(C(=O)C=1C(=NN2C1C=CC=C2)C(C)C)C | C13H16N2O2
